US05561101
Sodium 2-chloro-6-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]benzoate (Table C, cpd. no. 58)
1.24 g of 7-chloro-3-hydroxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide, 154 mg NaOH, 25 ml THF and 25 ml water are mixed until a yellow homogeneous solution is achieved. The solvents are stripped on a rotovaporator and then on a Kugelrohr at 100° C. to produce the title compound as a yellow solid, m.p. 276°-278° C.

reactant | 7-chloro-3-hydroxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | 1.24 g | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=CC(=N1)OC)OC)O | C14H11ClN2O5
reactant | NaOH | 154 mg | [OH-].[Na+]
reactant | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | Sodium 2-chloro-6-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]benzoate | ClC1=C(C(=O)[O-])C(=CC=C1)C(=O)C1=NC(=CC(=N1)OC)OC.[Na+] | InChI=1S/C14H11ClN2O5.Na/c1-21-9-6-10(22-2)17-13(16-9)12(18)7-4-3-5-8(15)11(7)14(19)20;/h3-6H,1-2H3,(H,19,20);/q;+1/p-1
